US07745623B2
1-(1-{(2S)-3-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-hydroxypropanoyl}piperidin-4-yl)tetrahydropyrimidin-2(1H)-one
(2S)-3-[(6-Chloronaphthalen-2-yl)sulfony]-2-hydroxypropionic acid, 1-(piperidin-4-yl)tetrahydropyrimidin-2(1H)-one, and HOBt (23.0 g) were dissolved in DMF, WSC was added thereto, and the mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, diluted with an aqueous sodium bicarbonate solution, and extracted with dichloromethane. The extract was washed with an aqueous 5% citric acid solution and saturated saline solution, and dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=10/1) to obtain the title compound as a colorless powder.

reactant | (2S)-3-[(6-Chloronaphthalen-2-yl)sulfony]-2-hydroxypropionic acid | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C[C@H](C(=O)O)O | C13H11ClO5S
reactant | 1-(piperidin-4-yl)tetrahydropyrimidin-2(1H)-one | N1CCC(CC1)N1C(NCCC1)=O | C9H17N3O
reactant | HOBt | 23.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(1-{(2S)-3-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-hydroxypropanoyl}piperidin-4-yl)tetrahydropyrimidin-2(1H)-one | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C[C@H](C(=O)N1CCC(CC1)N1C(NCCC1)=O)O | C22H26ClN3O5S
